US04696763
125 parts of dodecan-1-ol are saturated with dry hydrogen chloride gas at room temperature. 13.5 parts of 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic acid are then added and the mixture heated to 85°. The resulting solution is stirred for 4 hours at 85°. Excess dodecan-1-ol is removed by heating at 90° under a vacuum of 0.01 mm Hg to give di-dodecyl 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylate as a yellow liquid.

reactant | dodecan-1-ol | C(CCCCCCCCCCC)O | C12H26O
reactant | hydrogen chloride | Cl | ClH
reactant | 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic acid | S1C(=NC2=C1C=CC=C2)SCC(CC(=O)O)C(=O)O | C12H11NO4S2
product | di-dodecyl 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylate | S1C(=NC2=C1C=CC=C2)SCC(CC(=O)OCCCCCCCCCCCC)C(=O)OCCCCCCCCCCCC | C36H59NO4S2
